### PR TITLE
Add divisibility properties of exponentials

### PR DESCRIPTION
**Pull request by Taneb**

### CODE REVIEW

File: src/Data/Nat/Divisibility.agda [hunk 1]
```diff
@@ -257,6 +257,17 @@ m*n∣⇒n∣ m n rewrite *-comm m n = m*n∣⇒m∣ n m
...
+------------------------------------------------------------------------
+-- Properties of _∣_ and _^_
+
+m∣n⇒m^o∣n^o : ∀ {m n} o → m ∣ n → m ^ o ∣ n ^ o
+m∣n⇒m^o∣n^o zero m∣n = ∣-refl
+m∣n⇒m^o∣n^o (suc o) m∣n = *-pres-∣ m∣n (m∣n⇒m^o∣n^o o m∣n)
+
+n≤o⇒m^n∣m^o : ∀ m {n o} → n ≤ o → m ^ n ∣ m ^ o
+n≤o⇒m^n∣m^o m z≤n = 1∣ _
+n≤o⇒m^n∣m^o m (s≤s n≤o) = *-monoʳ-∣ m (n≤o⇒m^n∣m^o m n≤o)
```
Comment (jamesmckinna) [inline src/Data/Nat/Divisibility.agda]: Usual remark applies here: `n ≤ o` can (and should!) be marked irrelevant, at the (again: usual) cost of expanding the bindings on `n` and `o`:

```suggestion
n≤o⇒m^n∣m^o : ∀ m {n o} → n ≤ o → m ^ n ∣ m ^ o
n≤o⇒m^n∣m^o m {n = zero} _ = 1∣ _
n≤o⇒m^n∣m^o m {n = suc _} {o = suc _} n≤o = *-monoʳ-∣ m (n≤o⇒m^n∣m^o m (s≤s⁻¹ n≤o))
```

File: CHANGELOG.md [hunk 2]
```diff
@@ -259,6 +259,12 @@ Additions to existing modules
   map : P ⊆ Q → All P xs → All Q xs
   ```
 
+* In `Data.Nat.Divisiblity`:
+  ```agad
+  m∣n⇒m^o∣n^o : ∀ o → m ∣ n → m ^ o ∣ n ^ o
+  n≤o⇒m^n∣m^o : ∀ m → n ≤ o → m ^ n ∣ m ^ o
```
Comment (jamesmckinna) [inline CHANGELOG.md]: So:
```suggestion
  n≤o⇒m^n∣m^o : ∀ m → .(n ≤ o) → m ^ n ∣ m ^ o
```

File: src/Data/Nat/Divisibility.agda [hunk 3]
```diff
@@ -257,6 +257,17 @@ m*n∣⇒n∣ m n rewrite *-comm m n = m*n∣⇒m∣ n m
     (p + q) * d   ∎
   where open ∣-Reasoning
 
+------------------------------------------------------------------------
+-- Properties of _∣_ and _^_
+
+m∣n⇒m^o∣n^o : ∀ {m n} o → m ∣ n → m ^ o ∣ n ^ o
+m∣n⇒m^o∣n^o zero m∣n = ∣-refl
+m∣n⇒m^o∣n^o (suc o) m∣n = *-pres-∣ m∣n (m∣n⇒m^o∣n^o o m∣n)
```
Comment (jamesmckinna) [inline src/Data/Nat/Divisibility.agda]: Alternatively, use `^-distribʳ-*` and match on `m∣n : m ∣ n` to do this in one line as:
```suggestion
m∣n⇒m^o∣n^o : ∀ {m n} o → m ∣ n → m ^ o ∣ n ^ o
m∣n⇒m^o∣n^o {m = m} o (divides-refl p) rewrite ^-distribʳ-* o p m = divides-refl (p ^ o)
```
and, on such a basis, lemma becomes provable already in `Data.Nat.Divisibility.Core`.

Comment (JacquesCarette) [reply src/Data/Nat/Divisibility.agda]: Can we implement this without `rewrite`? At which time I would definitely prefer the 1-liner.

Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: Well...
```suggestion
m∣n⇒m^o∣n^o : ∀ {m n} o → m ∣ n → m ^ o ∣ n ^ o
m∣n⇒m^o∣n^o {m = m} o (divides-refl p) = subst (m ^ o ∣_) (sym (^-distribʳ-* o p m)) (divides-refl (p ^ o))
```
but the use of `subst` is then a different kind of wart...? UPDATED: note to self, and others: don't use `subst`, use `resp`!

I get that you don't think proofs using `rewrite` are as robust as `subst`-based reasoning, but why in this instance, when the proof does typecheck?

File: src/Data/Nat/Divisibility.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: See also https://github.com/agda/agda-stdlib/pull/2939#discussion_r2789051879 for a counter view?

File: src/Data/Nat/Divisibility.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: Also: I think that the drift of the v2.1 deprecation of `*-pres-∣` was to *simplify* `Core`. And here I'm suggesting enriching it... so I'm no longer sure where things should live!

But I think that `subst` is already making things harder to understand, even though that the heart of each proof is the middle-four/interchange law (and that @Taneb 's original proof was emulating the structure of the proof of `^-distribʳ-*`, so my DRY alarm went off... delegate, don't reiterate)

File: src/Data/Nat/Divisibility.agda (hunk 1 above)
Comment (Taneb) [reply src/Data/Nat/Divisibility.agda]: I've made it irrelevant, but just after I pushed, I noticed something further that could be done (assuming #2941) :

```agda
n≤o⇒m^n∣m^o : ∀ m {n o} → .(n ≤ o) → m ^ n ∣ m ^ o
n≤o⇒m^n∣m^o m {n} {o} n≤o = divides (m ^ (o ∸ n)) $ begin-equality
  m ^ o               ≡⟨ cong (m ^_) (m∸n+n≡m n≤o) ⟨
  m ^ (o ∸ n + n)     ≡⟨ ^-distribˡ-+-* m (o ∸ n) n ⟩
  m ^ (o ∸ n) * m ^ n ∎
  where open ∣-Reasoning
```

This has the advantage of making the quotient usefully defined using `Data.Nat.Base`'s operations, rather than a hidden and obscure recursive term. But it's a lot more code for such a small advantage!

Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: Well...
* let's not assume #2941 will proceed/progress/land anytime soon!?
* so keep the scope of this PR smaller
* I like the conceptual reduction to `Base` operations, but agree that the cost-benefit trade-off doesn't immediately indicate a clear win
* ...

All of that said... it's nice to see the commonality between the two proofs, delegating to various instances of distributivity laws. But... for another time, perhaps!?

File: src/Data/Nat/Divisibility.agda (hunk 3 above)
Comment (Taneb) [reply src/Data/Nat/Divisibility.agda]: I don't want to put anything in core that doesn't need to be there, and I don't think this needs to be there at all. The `.Core` modules are, to my understanding, intended as a tool to break module import cycles.

Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: Wherever it lives, thus lemma doesn't need to recapitulate the induction analysis already encapsulated in the interchange/distribution law!
But I'll get off my hobby horse now!

Comment (Taneb) [reply src/Data/Nat/Divisibility.agda]: What do you think of this definition:

```agda
m∣n⇒m^o∣n^o o (divides-refl m/n) = divides (m/n ^ o) (^-distribʳ-* o m/n _)
```

Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: Oh that looks quite clever! Will look in detail when I'm not on a cross country bus...

File: src/Data/Nat/Divisibility.agda [hunk 4]
```diff
@@ -257,6 +257,16 @@ m*n∣⇒n∣ m n rewrite *-comm m n = m*n∣⇒m∣ n m
     (p + q) * d   ∎
   where open ∣-Reasoning
 
+------------------------------------------------------------------------
+-- Properties of _∣_ and _^_
+
+m∣n⇒m^o∣n^o : ∀ {m n} o → m ∣ n → m ^ o ∣ n ^ o
+m∣n⇒m^o∣n^o o (divides-refl m/n) = divides (m/n ^ o) (^-distribʳ-* o m/n _)
```
Comment (jamesmckinna) [inline src/Data/Nat/Divisibility.agda:264]: 💯

**Review by jamesmckinna — APPROVED** [review]
This look altogether better, very nicely done.

File: src/Data/Nat/Divisibility.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda]: ... well I still am, but no need to hold this up any further.

File: src/Data/Nat/Divisibility.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Data/Nat/Divisibility.agda:264]: Ah... now I'm home again, i realise I was too hasty: the proof has `m/n` where better we would have `n/m`. 
Potayto, potahto...
